### PR TITLE
Prove `Measurable vol` (and `Measurable ball`)

### PR DESCRIPTION
**Pull request by JasperMS**
One remaining `sorry` from lemma 10.1.2, turned out to be doable after all.

Maybe the ToMathlib result should have `fun_prop` as well; feel free to add that.

### CODE REVIEW

File: Carleson/ToMathlib/Misc.lean [hunk 1]
```diff
@@ -596,3 +596,18 @@ theorem prod_attach_insert {α β : Type*} {s : Finset α} {a : α} [DecidableEq
     ext
     simpa using h
   · simp [ha]
+
+namespace MeasureTheory
+
+theorem measurable_measure_ball {α : Type*} [PseudoMetricSpace α] [SecondCountableTopology α]
+    [MeasurableSpace α] [OpensMeasurableSpace α] {μ : Measure α} [SFinite μ] :
+    Measurable fun (a, r) ↦ μ (Metric.ball a r) := by
+  let s : Set (α × α × ℝ) := fun (b, a, r) ↦ b ∈ Metric.ball a r
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Misc.lean:605]:
```suggestion
  let s : Set (α × α × ℝ) := { (b, a, r) | b ∈ Metric.ball a r }
```
or, if that notation doesn't work, use `setOf fun (b, a, r) ↦ b ∈ Metric.ball a r`.

Your current definition is "abusing" the definition of `Set`.

File: Carleson/Defs.lean [hunk 2]
```diff
@@ -231,6 +232,17 @@ protected def Real.vol {X : Type*} [PseudoMetricSpace X] [MeasureSpace X] (x y :
 def vol {X : Type*} [PseudoMetricSpace X] [MeasureSpace X] (x y : X) : ℝ≥0∞ :=
   volume (ball x (dist x y))
 
+@[fun_prop]
+lemma measurable_vol {X : Type*} [PseudoMetricSpace X] [SecondCountableTopology X]
+    [MeasureSpace X] [OpensMeasurableSpace X] [SFinite (volume : Measure X)] :
+    Measurable (uncurry vol : X × X → ℝ≥0∞) := by
+  let f : X × X → X × ℝ := fun (x, y) ↦ (x, dist x y)
+  let g : X × ℝ → ℝ≥0∞ := fun (x, a) ↦ volume (ball x a)
+  have : uncurry vol = g ∘ f := by rfl
```
Comment (fpvandoorn) [inline Carleson/Defs.lean:241]:
```suggestion
```
or do you use it?

**Review by fpvandoorn — APPROVED** [review]
Two small comments. Looks good otherwise.

**Comment by JasperMS** [comment]
I made the changes. I think it still needs a click from someone with rights on the upstream project to actually be merged?

**Comment by fpvandoorn** [comment]
Yes, that is correct. Thanks!
